US06559145B2
Methyl 5-bromo-4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate [BI.3].
Methyl 4-oxo4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate (Preparation 11, 3.50 g) is dissolved in anhydrous ether (30 mL) and carbon tetrachloride (20 mL). This solution is cooled to −10° C. and a solution of bromine (2.66 g) in carbon tetrachloride (5 mL) with 3 drops of ether. Each drop of the bromine solution is added only after the orange color dissipated from the prior drop. After completion of addition, the solution is allowed to stir for 15 minutes at −10° C., 15 minutes at 0° C., and then overnight at rt. This reaction mixture is poured into water (100 mL) and extracted with ether (100 mL). The ether phase is washed with brine, dried over Na2SO4, filtered, and concentrated to give 4.80 g (99%) of the title compound as a yellow oil. Physical characteristics: MS (ESI+) m/z 289.0/291.0 (M+H)+.

reactant | Methyl 4-oxo4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate | 3.50 g | O=C1C(CCC2=C1C=CS2)C(=O)OC | C10H10O3S
reactant | bromine | 2.66 g | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | ether | 3 drops | CCOCC | C4H10O
product | Methyl 5-bromo-4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate | 4.80 g, 99% | BrC1(CCC2=C(C=CS2)C1=O)C(=O)OC | C10H9BrO3S
